US05929293
Preparation of perfluorobutene-2 (from perfluorobutyl iodide and TFE)
A 240 mL Hastelloy shaker tube was flushed with nitrogen, then loaded with 5 g of aluminum chlorofluoride catalyst, cooled to -78° C., evacuated and loaded with 20 g (0.06 mole) of perfluorobutyl iodide and 50 g (0.5 mole) of tetrafluoroethylene. The reaction vessel was allowed to warm and kept on a shaker at 25-30° C. at autogenous pressure. Significant pressure drop (approximately 150 psi) was observed in the first 2 hours. After 18 hours, the pressure tube was unloaded. The product, 40 g, was collected in a -78° C. cold trap. According to 19F NMR, it was a mixture of 90% of perfluorobutene-2, mixture of cis and trans isomers in a 3:2 ratio and 10% of perfluoroethyl iodide. The calculated yield of perfluorobutene-2 based on converted perfluorobutyl iodide was 72%. According to 19F NMR, the main component (about 70%) of the residue (15 g) was a mixture of perfluorohexene-2, (minor) and perfluorohexene-3.

reactant | perfluorobutyl iodide | 0.06 mole, 20 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(F)I | C4F9I
reactant | tetrafluoroethylene | 0.5 mole, 50 g | FC(=C(F)F)F | C2F4
product | perfluorobutene-2 | C(=C(/C(F)(F)F)\F)(\C(F)(F)F)/F | C4F8
